US05049669
Triethylamine (10 cc) is added with stirring to a solution, cooled to a temperature in the region of 5° C., of 10-(1-hydroxy-2-propyl)-2-phenothiazinecarbonitrile, L series (12.6 g) in methylene chloride (126 cc), a solution of methanesulphonyl chloride (5.6 cc) in methylene chloride (56 cc) is then added dropwise during 25 minutes, and stirring is continued for 1 hour 15 minutes at a temperature in the region of 10-15° C. The reaction mixture is washed successively with distilled water (2×100 cc) and with saturated sodium chloride solution (100 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40 C. 2-(2-cyano-10-phenothiazinyl)-1-propyl methanesulphonate, L series (16.2 g) is thereby obtained in the form of an orange oil.([α]20D =+29.9±0.3°; 2.4%; chloroform), which is used without further purification for the next stage of the synthesis.

reactant | Triethylamine | 10 cc | C(C)N(CC)CC | C6H15N
reactant | 10-(1-hydroxy-2-propyl)-2-phenothiazinecarbonitrile | OCC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N | C16H14N2OS
reactant | methanesulphonyl chloride | 5.6 cc | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 126 cc | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 56 cc | C(Cl)Cl | CH2Cl2
product | 2-(2-cyano-10-phenothiazinyl)-1-propyl methanesulphonate | CS(=O)(=O)OCC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N | C17H16N2O3S2
